US09023865B2
1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (301 mg, 0.8 mmol), CDI (519 mg, 3.2 mmol), DIEA (0.5 ml, 2.87 mmol and 1,4-dioxane (5 mL) were charged in a microwave vial. The mixture was stirred at 50° C. for 4.5 h. Additional CDI (519 mg, 3.2 mmol) and imidazole (218 mg, 3.20 mmol) were added, the mixture was stirred at 50° C. for 16 h and then treated with (R)-1-(4-fluorophenyl)ethanamine (536 mg, 3.85 mmol). The mixture was stirred at 50° C. for 2 h and then diluted with EtOAc washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford a residue, which was purified by chromatography on silica gel (0-40% EtOAc in hexane, 25 CV; 40-100% EtOAc in hexane, 20 CV) to afford (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (154 mg, 0.229 mmol, 28%) as a yellow solid. MS ESI calc'd. for C34H29FN5O [M+H]+ 542, found 542.

reactant | 1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 0.8 mmol, 301 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=2C=NC(=CC21)N | C25H20N4
reactant | CDI | 3.2 mmol, 519 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 3.2 mmol, 519 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | imidazole | 3.20 mmol, 218 mg | N1C=NC=C1 | C3H4N2
reactant | (R)-1-(4-fluorophenyl)ethanamine | 3.85 mmol, 536 mg | FC1=CC=C(C=C1)[C@@H](C)N | C8H10FN
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(1-(4-fluorophenyl)ethyl)-3-(1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.229 mmol, 154 mg, 28% | FC1=CC=C(C=C1)[C@@H](C)NC(=O)NC1=CC2=C(C=N1)C=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H28FN5O
